Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-6.2602768514600005
[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.20267923621
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.51919284376
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],2.5397657272400003
[H:12].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.642148940809999
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-6.173833826980001
[C:1][C:2]([H:3])([H:4])[C:5](=[C:6][H:7])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:8]>>[C:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.99985035822
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],4.3053324758
[H:1][C:2][O:3][C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],4.3480249296599975
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]#[C:11][H:12].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.98737141944
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C@@:8]([C:6](=[C:4][H:5])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13],2.8206758341
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][H:5],3.83296592687
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3],4.841520395880001
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.9202174775300005
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9],5.997573881009999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],3.95866467809
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[O:1],8.00273877805
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5],3.6096078702900023
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.391062271580002
[H:1][O:2][C@:3]1([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.84893391037
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],2.94684584005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][O:10][H:11].[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-2.60281384407
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]#[C:3][O:4],2.26375951348
[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],1.07442504564
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][O:5][H:6],3.9011205734
[C:3]=[C:8]([H:9])[H:10].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:11]>>[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.89606963081
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6],5.86905020421
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.20246224008
